US06455528B1
(11) Synthesis of N,N-bis(2-Hydroxyethyl)-4-fluorophenylamine
To a solution of N-ethoxycarbonylmethyl-N-(4-fluorophenyl)-aminoethyl acetate (13.51 g) in tetrahydrofuran (135 ml) was added lithium borohydride (4.15 g) and the mixture was stirred at 60° C. for 1 hr. The reaction mixture was poured into water (300 ml) and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated to give the title compound (9.2 g) as a yellow oil.

reactant | N-ethoxycarbonylmethyl-N-(4-fluorophenyl)-aminoethyl acetate | 13.51 g | C(C)(=O)OCCN(C1=CC=C(C=C1)F)CC(=O)OCC | C14H18FNO4
reactant | lithium borohydride | 4.15 g | [BH4-].[Li+]
reactant | water | 300 ml | O | H2O
solvent | tetrahydrofuran | 135 ml | O1CCCC1 | C4H8O
product | N,N-bis(2-Hydroxyethyl)-4-fluorophenylamine | 9.2 g | OCCN(CCO)C1=CC=C(C=C1)F | C10H14FNO2
